US08809336B2
A solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (15.5 mg, 0.1 mmol), [4-(4-chlorophenyl)-piperidin-4-ylmethyl]-methylamine bis-hydrochloride (34 mg, 0.11 mmol) and triethylamine (150 μL, 0.7 mmol) in n-butanol (1 ml) was heated at 100° C. in a microwave reactor for 60 minutes. After cooling the reaction the solvents were concentrated. Purification on SCX-II acid resin, eluting with methanol then 2M ammonia/methanol, followed by further purification by flash column chromatography on silica, eluting with 15% methanol in dichloromethane, gave [4-(4-chlorophenyl)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-piperidin-4-ylmethyl]-methylamine (12.3 mg, 0.034 mmol, 34%). LC-MS (LCT2) m/z 356 [M+H+], Rt 2.64 min.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.1 mmol, 15.5 mg | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | [4-(4-chlorophenyl)-piperidin-4-ylmethyl]-methylamine bis-hydrochloride | 0.11 mmol, 34 mg | Cl.Cl.ClC1=CC=C(C=C1)C1(CCNCC1)CNC
reactant | triethylamine | 0.7 mmol, 150 μL | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 1 ml | C(CCC)O | C4H10O
product | [4-(4-chlorophenyl)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-piperidin-4-ylmethyl]-methylamine | 0.034 mmol, 12.3 mg, 34% | ClC1=CC=C(C=C1)C1(CCN(CC1)C=1C2=C(N=CN1)NC=C2)CNC | C19H22ClN5
